US08242104B2
A suspension of 4-chloro-6-methoxy-nicotinamidine hydrochloride (50.9 mmol) and potassium bicarbonate (20.4 g, 202.5 mmol) in THF (128 mL) and water (21 mL) was heated to reflux and treated with a solution of 2-chloro-1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone (9.55 g, 50.9 mmol) in THF (25 mL) added dropwise. The reaction mixture was heated at reflux for 24 h before removal of volatile solvent in vacuo. The resultant residue was diluted with water and extracted with ethyl acetate. The combined extracts were dried (Na2SO4), treated with charcoal (15 g), filtered and concentrated in vacuo to give a solid. The solid was triturated with 10% diethyl ether in pentane then dried at 50° C. in vacuo to give 4-Chloro-5-[4-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-1H-imidazol-2-yl]-2-methoxy-pyridine as a pale brown solid (8.74 g, 54%). LCMS RT=2.86 min, [M+H]+=319/321. 1H NMR 400 MHz (CDCl3) δ: 9.03 (1H, s), 7.89 (1H, s), 7.83 (1H, s), 7.26 (1H, s) 6.88 (1H, s), 4.01 (3H, s), 1.58 (6H, d, J=6.63 Hz).

reactant | 4-chloro-6-methoxy-nicotinamidine hydrochloride | 50.9 mmol | Cl.ClC1=CC(=NC=C1C(=N)N)OC
reactant | potassium bicarbonate | 202.5 mmol, 20.4 g | C([O-])(O)=O.[K+]
reactant | 2-chloro-1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone | 50.9 mmol, 9.55 g | ClCC(=O)C=1N(N=CN1)C(C)C | C7H10ClN3O
solvent | THF | 128 mL | C1CCOC1 | C4H8O
solvent | water | 21 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-Chloro-5-[4-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-1H-imidazol-2-yl]-2-methoxy-pyridine | 8.74 g, 54% | ClC1=CC(=NC=C1C=1NC=C(N1)C=1N(N=CN1)C(C)C)OC | C14H15ClN6O
